US07001704B2
To 200 g of acetone, 117 g of N,N-diethylethanolamine and 116 g of iodomethane were dissolved. The solution was left for one day. The precipitated white solid was filtered off, and dispersed in 200 g of acetone again. The dispersion was filtered off, and dried to obtain 210 g of N,N,N-triethyl-N-(2-hydroxyethyl)ammonium iodide.

reactant | N,N-diethylethanolamine | 117 g | C(C)N(CCO)CC | C6H15NO
reactant | iodomethane | 116 g | IC | CH3I
reactant | acetone | 200 g | CC(=O)C | C3H6O
product | N,N,N-triethyl-N-(2-hydroxyethyl)ammonium iodide | 210 g | [I-].C(C)[N+](CCO)(CC)CC | InChI=1S/C8H20NO.HI/c1-4-9(5-2,6-3)7-8-10;/h10H,4-8H2,1-3H3;1H/q+1;/p-1
